US07902367B2
Step D2) Methyl 4-(tert-butoxycarbonyl)morpholine-2-carboxylate
Ammonium formate (381 mg, 6.04 mmol) and 10% palladium on activated carbon (180 mg) were added to methyl 4-benzylmorpholine-2-carboxylate (355 mg, 1.51 mmol) in methanol (10 mL). The mixture was stirred at room temperature for 1 hour. Subsequently, the reaction mixture was filtered through Celite. The solvent was evaporated and the resulting residue was suspended in acetonitrile (10 mL). This suspension was chilled in an ice bath and di t-butyl dicarbonate (395 mg, 1.81 mmol) and triethylamine (0.253 mL, 1.81 mmol) were added. This mixture was stirred at room temperature for 2 hours. Subsequently, water was added and the mixture was extracted with ethyl acetate. The extract washed sequentially with a 5% aqueous citric acid and brine and was dried over magnesium sulfate. The solvent was then evaporated. Purification of the residue by silica gel column chromatography (hexane:ethyl acetate=10:1->2:1) gave 251 mg (68%) of the desired compound as a colorless oil.

reactant | Ammonium formate | 6.04 mmol, 381 mg | C(=O)[O-].[NH4+]
reactant | methyl 4-benzylmorpholine-2-carboxylate | 1.51 mmol, 355 mg | C(C1=CC=CC=C1)N1CC(OCC1)C(=O)OC | C13H17NO3
reactant | di t-butyl dicarbonate | 1.81 mmol, 395 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 1.81 mmol, 0.253 mL | C(C)N(CC)CC | C6H15N
catalyst | palladium on activated carbon | 180 mg | [Pd] | Pd
solvent | methanol | 10 mL | CO | CH4O
solvent | water | O | H2O
product | Methyl 4-(tert-butoxycarbonyl)morpholine-2-carboxylate | 251 mg, 68% | C(C)(C)(C)OC(=O)N1CC(OCC1)C(=O)OC | C11H19NO5
